US05998436
Synthesis of 7-(3-aminoazetidin-1-yl)-8-chloro-1-(3,5-difluoro-6-methoxypyridin-2-yl)-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
To 500 mg of acetonitrile were added 75 mg of 8-chloro-1-(3,5-difluoro-6-methoxypyridin-2-yl)-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid, 65 mg of 3-aminoazetidine dihydrochloride, and 150 mg of N-methylpyrrolidine, and the mixture was heated under reflux for 1 hour. The precipitate was collected by filtration and washed with ethanol and diisopropylether successively to obtain 28 mg of the title compound as a colorless powder. 5 Melting point: 171 to 175° C.

reactant | 8-chloro-1-(3,5-difluoro-6-methoxypyridin-2-yl)-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 75 mg | ClC=1C(=C(C=C2C(C(=CN(C12)C1=NC(=C(C=C1F)F)OC)C(=O)O)=O)F)F | C16H7ClF4N2O4
reactant | 3-aminoazetidine dihydrochloride | 65 mg | Cl.Cl.NC1CNC1
reactant | N-methylpyrrolidine | 150 mg | CN1CCCC1 | C5H11N
solvent | acetonitrile | 500 mg | C(C)#N | C2H3N
product | 7-(3-aminoazetidin-1-yl)-8-chloro-1-(3,5-difluoro-6-methoxypyridin-2-yl)-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 28 mg | NC1CN(C1)C1=C(C=C2C(C(=CN(C2=C1Cl)C1=NC(=C(C=C1F)F)OC)C(=O)O)=O)F | C19H14ClF3N4O4
